US05585359
Step F: Preparation of (4-nitrobenzylthio)acetic acid
4-Nitrobenzyl chloride (2.5 g, 15 mmol) was added to a solution of mercaptoacetic acid (80% in H2O, 1 mL,~12 mmol) in aqueous sodium hydroxide (2.75N, 10 mL) and THF (10 mL) with stirring at 50° C. After 1 hour, the reaction was cooled to ambient temperature, diluted with water (30 mL) and extracted with Et2O to remove excess halide. The aqueous layer was distributed between EtOAc and 5% citric acid and the organic extract then washed with H2O, dried (MgSO4) and evaporated to give the title compound as a pale yellow solid, m.p. 101-104° C. [lit. m.p. 114° C⟧ 1H NMR (CDCl3); δ3.10 (s, 2H), 3.94 (s, 2H), 5.37 (d, 2H, J =8.7 Hz), 8.21 (d, 2H, J=8.7 Hz).

reactant | 4-Nitrobenzyl chloride | 15 mmol, 2.5 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | mercaptoacetic acid | ~12 mmol, 1 mL | SCC(=O)O | C2H4O2S
solvent | sodium hydroxide | 2.75N, 10 mL | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | (4-nitrobenzylthio)acetic acid | [N+](=O)([O-])C1=CC=C(CSCC(=O)O)C=C1 | C9H9NO4S
